US06521754B2
[7-(2-Bromo-propionyl)-4-methoxy-benzothiazol-2-yl]-carbamic acid methyll ester
5.0 g of [7-(2-bromo-1-hydroxy-propyl)-4-methoxy-benzothiazol-2-yl]-carbamic acid methyll ester 0.0133 Mol) were suspended in water (30 ml) and 2.0 g of CrO3 (0.02 Mol), dissolved in acetic acid (30 ml), were added. The reaction mixture was heated to 70° C. for 2 hrs. and then evaporated to dryness. The residue was taken up in sat. NaHCO3 (200 ml), extracted 4× with ethyl acetate (200 ml each) and the combined organic phases were dried over MgSO4. The title compound was obtained as orange crystals (74%); F.p.: 199-201° C.

reactant | [7-(2-bromo-1-hydroxy-propyl)-4-methoxy-benzothiazol-2-yl]-carbamic acid | 0.0133 Mol, 5.0 g | BrC(C(O)C1=CC=C(C=2N=C(SC21)NC(O)=O)OC)C | C12H13BrN2O4S
solvent | water | 30 ml | O | H2O
solvent | acetic acid | 30 ml | C(C)(=O)O | C2H4O2
product | [7-(2-Bromo-propionyl)-4-methoxy-benzothiazol-2-yl]-carbamic acid | BrC(C(=O)C1=CC=C(C=2N=C(SC21)NC(O)=O)OC)C | C12H11BrN2O4S
